US06048872
2-(4 nitro-2-chlorophenyl)acetic acid methyl ester
2-(4-nitro-2chlorophenyl)-malonic acid dimethyl ester was dissolved in DMSO, then lithium chloride (0.759 g), and water (0.15 mL) were added. The mixture was heated to 100° C. for 3h. The reaction was cooled and the product purified by chromatography on silica gel eluting with hexane/ethyl acetate (9:1) to give the title compound as a yellow oil (1.77 g).

reactant | 2-(4-nitro-2chlorophenyl)-malonic acid dimethyl ester | COC(C(C(=O)OC)C1=C(C=C(C=C1)[N+](=O)[O-])Cl)=O | C11H10ClNO6
reactant | lithium chloride | 0.759 g | [Cl-].[Li+]
reactant | water | 0.15 mL | O | H2O
solvent | DMSO | CS(=O)C | C2H6OS
product | 2-(4 nitro-2-chlorophenyl)acetic acid methyl ester | 1.77 g | COC(CC1=C(C=C(C=C1)[N+](=O)[O-])Cl)=O | C9H8ClNO4
